US08802670B2
To a mixture of 6-bromomethyl-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (0.50 g) and N-methyl-N-pyrrolidin-2-ylmethyl-methanesulfonamide (390 mg) in acetonitrile (10 mL) was added potassium carbonate (490 mg). The reaction mixture was heated at 80° C. for 16 h and then allowed to cool to room temperature. The reaction mixture was then partitioned between dichloromethane (20 mL) and saturated aqueous sodium bicarbonate solution (20 mL). The combined organics were washed with brine (30 mL), dried (MgSO4), reduced in vacuo and purified by column chromatography to give N-[1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-pyrrolidin-2-ylmethyl]-N-methyl-methanesulfonamide as a pale yellow solid (580 mg).

reactant | 6-bromomethyl-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 0.50 g | BrCC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C11H11BrClN3OS
reactant | N-methyl-N-pyrrolidin-2-ylmethyl-methanesulfonamide | 390 mg | CN(S(=O)(=O)C)CC1NCCC1 | C7H16N2O2S
reactant | potassium carbonate | 490 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-[1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-pyrrolidin-2-ylmethyl]-N-methyl-methanesulfonamide | 580 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN2C(CCC2)CN(S(=O)(=O)C)C)N2CCOCC2 | C18H26ClN5O3S2
